US09403839B2
[8-hydroxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-3-yl]-(4-isopropoxy-3-methyl-phenyl)methanone (300 mg, 0.71 mmol) was dissolved in isopropanol (6.0 mL, 78 mmol). Pyridinium p-toluenesulfonate (178 mg, 0.71 mmol) was added, and the reaction mixture was allowed to stir at 50° C. for 1 hour. The reaction mixture was diluted with water (50 mL) and extracted with ethyl acetate (2×50 mL). The organic layers were combined, dried over sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography (50-75% ethyl acetate/hexane) to provide (4-isopropoxy-3-methyl-phenyl)-[8-isopropoxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-3-yl]methanone (173 mg) as a clear oil. 1H NMR (400 MHz, CDCl3) δ 8.90 (d, J=1.5 Hz, 1H), 8.55 (d, J=3.6 Hz, 1H), 7.90 (dt, J=8.0, 1.9 Hz, 1H), 7.28 (dd, J=7.6, 4.5 Hz, 1H), 7.26-7.17 (m, 2H), 6.82 (d, J=8.2 Hz, 1H), 5.55 (d, J=3.9 Hz, 1H), 4.71-4.27 (m, 2H), 4.19 (dd, J=9.4, 5.3 Hz, 1H), 3.97-3.59 (m, 2H), 3.39 (br s, 2H), 2.40-2.10 (m, 1H), 2.21 (s, 3H), 2.05-1.84 (m, 3H), 1.83-1.49 (m, 2H), 1.33 (t, J=9.8 Hz, 6H), 1.19 (dd, J =6.1, 2.8 Hz, 6H). ESI-MS m/z calc. 464.27, found 465.5 (M+1)+; Retention time: 1.56 minutes (3 min run).

reactant | [8-hydroxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-3-yl]-(4-isopropoxy-3-methyl-phenyl)methanone | 0.71 mmol, 300 mg | OC1CC2(CCN(CC2)C(=O)C2=CC(=C(C=C2)OC(C)C)C)OC(=C1)C=1C=NC=CC1 | C25H30N2O4
reactant | isopropanol | 78 mmol, 6.0 mL | C(C)(C)O | C3H8O
reactant | Pyridinium p-toluenesulfonate | 0.71 mmol, 178 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | water | 50 mL | O | H2O
product | (4-isopropoxy-3-methyl-phenyl)-[8-isopropoxy-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-9-en-3-yl]methanone | 173 mg | C(C)(C)OC1=C(C=C(C=C1)C(=O)N1CCC2(CC1)CC(C=C(O2)C=2C=NC=CC2)OC(C)C)C | C28H36N2O4
